US06583155B2
A solution of 4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (2.91 g, 9.16 mmol) in THF (10 mL) was added dropwise to a solution of KHMDS (2.19 g, 11.0 mmol) in THF (20 mL). The mixture was stirred for 10 min then bromoacetonitrile (3.2 mL, 46 mmol) was added. The resulting mixture was stirred for 4 h then partitioned between EtOAc (750 mL) and saturated aqueous NaHCO3 (200 mL). The EtOAc layer was washed with H2O (3×200 mL) and brine (200 mL). The combined washes were extracted with EtOAc (2×150 mL). The combined extracts were dried over Na2SO4 and concentrated. Column chromatography (silica, 20-60% EtOAc/hexanes) afforded 2.20 g (67%) of 4-(3-cyanomethyl-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester. The purified material was dissolved in CH2Cl2 (40 mL) and diluted with TFA (25 mL). The resulting mixture was stirred for 1 h then diluted with CH2Cl2 (250 mL) and washed with 1 N NaOH (100 mL). The aqueous layer was extracted with CH2Cl2 (2×100 mL). The combined extracts were dried over Na2SO4 and concentrated to 1.59 g (95%) of the title compound which was suitable for further use without purification. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.1. MS (electrospray): m/z calculated for C14H17N4O [M++H] 257.14, found 257.1. 1H NMR (CDCl3, 400 Hz): 733-7.29 (m, 1H), 7.17-7.02 (m, 3H), 4.75 (s, 2H), 4.41 (ft, J=12.2, 4.4 Hz, 1H), 3.28 (brd, J=9.8 Hz, 2H), 3.11 (brs, 1H), 2.80 (t, J=10.0 Hz, 2H), 2.37 (dq, J=12.5, 4.2 Hz, 2H), 1.83 (br d, J=11.8 Hz, 2H).

reactant | 4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 9.16 mmol, 2.91 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
reactant | KHMDS | 11.0 mmol, 2.19 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | bromoacetonitrile | 46 mmol, 3.2 mL | BrCC#N | C2H2BrN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(3-cyanomethyl-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.20 g, 67% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC#N)=O | C19H24N4O3
